US08623889B2
Step 1: 3-bromo-4-methylpicolinaldehyde
A mixture of (3-bromo-4-methyl-2-pyridyl)methanol (600 mg, 2.97 mmol) and Dess-Martin Periodinane (1688 mg, 3.86 mmol) in DCM (20 mL) was stirred at room temperature for 3 hours. The reaction mixture was diluted with dichloromethane (50 mL) and washed with saturated aqueous sodium bicarbonate (2×25 mL). The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to provide a residue that was purified by flash chromatography (12 g, Silica, 0-80% ethyl acetate in heptane). Desired fractions were combined and evaporated in vacuo to afford the title compound as pale yellow solid (470 mg, 79%), which was used in the next step without further purification.

reactant | (3-bromo-4-methyl-2-pyridyl)methanol | 2.97 mmol, 600 mg | BrC=1C(=NC=CC1C)CO | C7H8BrNO
reactant | Dess-Martin Periodinane | 3.86 mmol, 1688 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-bromo-4-methylpicolinaldehyde | 470 mg, 79% | BrC=1C(=NC=CC1C)C=O | C7H6BrNO
